US07799798B2
B. Synthesis of N-pentylthiophen-3-amine
To a solution of N-3-thienylpentanamide (13.4 g, 73.0 mmol) in THF (200 mL) was added LiAlH4 (3.50 g, 100 mmol) at ambient temperature. The resulting mixture was stirred at ambient temperature for 16 h and at 60° C. for 1 h. After cooling down to ambient temperature, the reaction was quenched by the addition of saturated sodium sulfate dropwise until the color change from green to white and diluted with THF (200 mL). The reaction mixture was filtered through celite and the filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography to yield the title compound (9.70 g, 79%): MS (ES+) m/z 170.3 (M+1).

reactant | N-3-thienylpentanamide | 73.0 mmol, 13.4 g | S1C=C(C=C1)NC(CCCC)=O | C9H13NOS
reactant | LiAlH4 | 100 mmol, 3.50 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | N-pentylthiophen-3-amine | 9.70 g, 79% | C(CCCC)NC1=CSC=C1 | C9H15NS
